US06531479B2
A mixture of 5-chloro-pentadione (5.12 g, 38 mmol) and thionicotinamide (5.25 g, 38 mmol) in MeOH (10 mL) was treated with pyridine (3 mL). The reaction mixture was heated at 70-75° C. for 5 h. The solvent was evaporated. The resulting solid was filtered and washed with EtOAc/MeOH to afford 4.33 g 5-acetyl-4-methyl-2-(3-pyridyl)-thiazol as a yellow solid, which was subjected to the next reaction without further purification. A mixture of this material (2.0 g) and N,N-dimethylformamide dimethyl acetal (4 mL) was heated at 80° C. for 22 h. The reaction mixture was concentrated and then triturated with EtOAc/PE. The precipitates were collected and washed with EtOAc/PE to afford the title compound (2.05 g, 75%) as a grey solid. 1H-NMR (300 MHz, CDCl3) δ 2.80 (s, 6H, CH3), 3.50 (s, 3H, CH3), 5.47 (d, 1H, J=12.1 Hz, CH), 7.39 (m, 1H, Ar-H), 7.78 (d, 1H, J=12.1 Hz, CH), 8.28 (m, 1H, Ar-H), 8.66 (m, 1H, Ar-H), 9.16 (s, 1H, Ar-H).

reactant | thionicotinamide | 38 mmol, 5.25 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | MeOH | 10 mL | CO | CH4O
product | 5-acetyl-4-methyl-2-(3-pyridyl)-thiazol | 4.33 g | C(C)(=O)C1=C(N=C(S1)C=1C=NC=CC1)C | C11H10N2OS
